US04382934
To a solution of isatin (14.7 g) in N,N-dimethylformamide (150 ml) was added potassium tert-butoxide (13.95 g) under cooling at 5° C., and the mixture was stirred vigorously for about 10 minutes. To the mixture was added dropwise a solution of 1-bromo-3-chloropropane (17.35 g) in N,N-dimethylformamide (50 ml) over a period of about 30 minutes at ambient temperature, and the mixture was stirred for 5 hours at the same temperature. The reaction mixture was poured into a mixture of ethyl acetate (300 ml) and ice-water (500 ml) containing 50 ml of 10% hydrochloric acid. After separation of the ethyl acetate layer, the aqueous layer was further extracted with ethyl acetate. The ethyl acetate layers were combined, washed with water, dried over anhydrous magnesium sulfate and then evaporated. The residue was subjected to column chromatography on silica gel (100 g) using chloroform as an eluent. The fractions containing the object compound were collected, and concentrated to give crystals of 1-(3-chloropropyl)isatin (19.68 g), mp. 72°-76.5° C.

reactant | isatin | 14.7 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | potassium tert-butoxide | 13.95 g | CC(C)([O-])C.[K+]
reactant | 1-bromo-3-chloropropane | 17.35 g | BrCCCCl | C3H6BrCl
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-chloropropyl)isatin | 19.68 g | ClCCCN1C(=O)C(=O)C2=CC=CC=C12 | C11H10ClNO2
